US05945382
(2-difluoromethoxy-3,5-dimethylphenyl)ethanone (compound 96) (passing from V, X1 =OH to V, X1 =OCHF2)
10 ml of a 30% aqueous sodium hydroxide solution and 8.5 g (0.025 mol) of tetrabutylammonium hydrogensulphate are added to a solution of 8.2 g (0.05 mol) of 2-acetyl-4,6-dimethylphenol, obtained above in Example XXX, in dichloromethane. A stream of chlorodifluoromethane is then passed into the reaction mixture for 30 minutes and the latter is then stirred at room temperature for 4 hours. The reaction mixture is then extracted with dichloromethane and the extract is washed with water. After drying the organic phase over MgSO4 and evaporation, the residue obtained is purified by passing through a silica column (dichloromethane) to lead to the production of a liquid: (2-difluoromethoxy-3,5-dimethylphenyl)ethanone: yield 21%.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-acetyl-4,6-dimethylphenol | 0.05 mol, 8.2 g | C(C)(=O)C1=C(C(=CC(=C1)C)C)O | C10H12O2
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
catalyst | tetrabutylammonium hydrogensulphate | 0.025 mol, 8.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2-difluoromethoxy-3,5-dimethylphenyl)ethanone | yield 21% | FC(OC1=C(C=C(C=C1C)C)C(C)=O)F | C11H12F2O2
